US08633237B2
(S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide
To (S)-(3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol (50, mg, 0.16 mmol) in THF (1 mL) was added perfluorophenyl methanesulfonate (39 mg, 0.15 mmol) followed by 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine (34.1 mg 0.22 mmol). The reaction was allowed to stir at RT overnight before removing the solvent in vacuo. The sample was redissolved in DMSO (500 μL) before purifying by reverse phase preparative HPLC-MS to give the title compound as a clear film (11 mg, 17.2%). MS (ESI): m/z [M+H]+ 400.1

reactant | (S)-(3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol | N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C=C(C1)C(F)(F)F)CO | C18H18F3NO
reactant | perfluorophenyl methanesulfonate | 0.15 mmol, 39 mg | CS(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C7H3F5O3S
reactant | 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine | 0.22 mmol, 34.1 mg | N=1CCCN2C1CCCCC2 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide | OCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C)C=C(C1)C(F)(F)F | C19H20F3NO3S
